US04602016
1-[2-(4-Aminophenoxy)ethyl]imidazole (0.6 g) was dissolved in 1N hydrochloric acid (3.0 ml) and a solution of potassium cyanate (0.3 g) in 1 ml of water was added. The mixture was allowed to stand at room temperature for 15 minutes and the resulting solid was filtered off, washed with water and crystallised from water to give 1-[2-(4-ureidophenoxy)ethyl]imidazole (0.6 g), m.p. 199°-201° C. Found: C, 58.20; H, 5.70; N, 23.06. C12H14N4O2 requires: C, 58.52; H, 5.73; N, 22.75%.

reactant | 1-[2-(4-Aminophenoxy)ethyl]imidazole | 0.6 g | NC1=CC=C(OCCN2C=NC=C2)C=C1 | C11H13N3O
reactant | potassium cyanate | 0.3 g | [O-]C#N.[K+]
solvent | hydrochloric acid | 1N, 3.0 ml | Cl | ClH
solvent | water | 1 ml | O | H2O
product | 1-[2-(4-ureidophenoxy)ethyl]imidazole | 0.6 g | N(C(=O)N)C1=CC=C(OCCN2C=NC=C2)C=C1 | C12H14N4O2
